US06610723B2
3-(1,1-Difluoro-ethyl)-4-fluoro-phenylamine
To a solution of 2-(1,1-difluoro-ethyl)-1-fluoro-4-nitro-benzene (10.4 g, 50.6 mmol) in methanol (200 ml) palladium on carbon (10%, 4 g) was added and the resulting mixture was hydrogenated for 2 h at 20° C. After filtration of the catalyst the solvent was evaporated to yield the title compound as a yellow semi solid mass. (8.5 g, 96%). MS: m/e=175 (M+).

reactant | 2-(1,1-difluoro-ethyl)-1-fluoro-4-nitro-benzene | 50.6 mmol, 10.4 g | FC(C)(F)C1=C(C=CC(=C1)[N+](=O)[O-])F | C8H6F3NO2
solvent | methanol | 200 ml, 4 g | CO | CH4O
product | 3-(1,1-Difluoro-ethyl)-4-fluoro-phenylamine | FC(C)(F)C=1C=C(C=CC1F)N | C8H8F3N
